US05486611
Preparation 9: 8-bromo-1,2,3,4-tetrahydro-1-[3-(t-butyldimethylsilyloxy)propyl]-2-hydroxynaphthalene (B-4, Chart B)
A solution of 8-bromo-1,2,3,4-tetrahydro-1-(3-hydroxypropyl)-2-hydroxynaphthalene (B-3, 29.15 g, 0.10 mol) and imidazole (17.02 g, 0.25 mol) in dimethylformamide (70 mls) was cooled in ice, and t-butyldimethylsilyl chloride (17.3 g, 0.115 mol) was added with stirring. The mixture was allowed to warm to room temperature slowly. After stirring for a total of 18 hours, crushed ice (30 mls) was added, and the mixture was stirred at ambient temperature for 0.5 hour. The mixture was diluted with water (300 mls) and extracted twice with 1:1 diethylether/hexane. The extracts were washed twice with water and once with brine. The solution was dried (MgSO4), and the solvent was removed under vacuum to leave the title compound as an oil (B-4, 42.78 g, 100%). NMR (CDCl3, TMS)δ0.083, 0.099 (twos,6H,Si-CH3), 0.91 (s,9H,Si-tBu), 1.50-1.60(m, 1H), 1.8-2.0(m,5H), 2.8-3.0(m,2H), 3.19 (d,J=4.3 Hz, 1H), 3.48(m,5 lines, 1H), 3.65-3.85 (m,2H), 4.0-4.13 (m,1H), 6.86(t,J=7.6 Hz, 1H), 6.93 (br. d,J=7.6 Hz, 1H), 7.30 (br. d,J=7.5 Hz,1H). IR (Major peaks)3411, 3057, 1592, 1559, 1472, 1463, 1438, 1256, 1100, 1067, 835, 774. CI Mass spec. m+at m/z 399,401.

reactant | 8-bromo-1,2,3,4-tetrahydro-1-(3-hydroxypropyl)-2-hydroxynaphthalene | 0.10 mol, 29.15 g | BrC=1C=CC=C2CCC(C(C12)CCCO)O | C13H17BrO2
reactant | imidazole | 0.25 mol, 17.02 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.115 mol, 17.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 70 mls | CN(C=O)C | C3H7NO
solvent | water | 300 mls | O | H2O
product | 8-bromo-1,2,3,4-tetrahydro-1-[3-(t-butyldimethylsilyloxy)propyl]-2-hydroxynaphthalene | 42.78 g, 100% | BrC=1C=CC=C2CCC(C(C12)CCCO[Si](C)(C)C(C)(C)C)O | C19H31BrO2Si
